datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:18][O:29][H:30],-5.736264
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:18]([C:17](=[C:16]([H:22])[H:23])[H:24])([C:19]([H:25])([H:26])[H:27])[C:20](=[C:21]([H:29])[H:30])[H:28])[H:8])([H:6])[H:7],77.2785
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])[H:9])[H:8],32.0076
[C:0](=[N:1])([H:2])[H:3]>>[C:0](#[N:1])[H:3].[H:2],125.089048
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[S:8])[H:9]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7](=[S:8])[H:9],51.0448
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[O:7][O:8][H:9]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][O:7][O:8][H:9],0.0
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],12.6357
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][H:27],27.731552
[C:0]([N:1]([H:5])[H:6])([H:2])([H:3])[H:4].[O:7]>>[C:0]([N:1]([H:5])[H:6])([H:3])[H:4].[H:2][O:7],21.7568
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[S:7])[H:8]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:6](=[S:7])[H:8],73.6384
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23])([H:9])([H:10])[H:11],50.4172
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:21][H:24],28.267104
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([H:9])[H:10])([H:7])[H:8]>>[C:0](#[C:1][C:2](=[S:3])[H:7])[H:4].[C:5](=[C:6]([H:9])[H:10])[H:8],99.9976
[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])[C:5]1([C:6]([H:13])([H:14])[H:15])[H:12])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([C:6]([H:13])([H:14])[H:15])([H:11])[C:5]1[H:12])([H:7])[H:8],207.5264
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:15],79.2868
[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[c:11]23.[O:20][H:21]>>[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8][c:9]([H:19])[c:10]1[c:11]23.[H:18][O:20][H:21],6.02799
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([O:14])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][O:14][C:13]([H:15])([H:16])[H:17],13.8072
